US05387591
Stage B: 3-Cyanomethyl-1-(4-chlorophenylsulfonyl)pyrrolidine
Acylation, in chloroform, of 36.6 g (0.25 mol) of 3-cyanomethylpyrrolidine hydrochloride with 52.7 g (0.25 mol) of para-chlorophenylsulfonic acid chloride, in the presence of 50.5 g (0.5 mol) of triethylamine makes it possible to obtain 72 g of a solid which is purified by chromatography on silica, Merck 70-230 mesh, using as eluent a dichloromethane/methanol mixture (99/1 v/v).

reactant | 3-cyanomethylpyrrolidine hydrochloride | 0.25 mol, 36.6 g | Cl.C(#N)CC1CNCC1
reactant | para-chlorophenylsulfonic acid chloride | 0.25 mol, 52.7 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | triethylamine | 0.5 mol, 50.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Cyanomethyl-1-(4-chlorophenylsulfonyl)pyrrolidine | 72 g, Yield: 65% | C(#N)CC1CN(CC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C12H13ClN2O2S
